US07498337B2
1-[1-(2-chloropyridin-3-ylsulfonyl)-5-phenyl-1H-pyrrol-3-yl]-N-methylmethanamine hydrochloride
To a solution (3 mL) of tert-butyl{[1-(2-chloro-3-pyridinesulfonyl)-5-phenyl-1H-pyrrol-3-yl]methyl}methylcarbamate (70 mg) in ethyl acetate was added a 4 mol/L hydrogen chloride-ethyl acetate solution (1 mL), and the mixture was stirred at room temperature for 3 hr. The solvent was evaporated under reduced pressure, and the residue was crystallized from ethanol-ethyl acetate to give the title compound (yield 29 mg, 49%).

reactant | tert-butyl{[1-(2-chloro-3-pyridinesulfonyl)-5-phenyl-1H-pyrrol-3-yl]methyl}methylcarbamate | 3 mL, 70 mg | C(C)(C)(C)OC(N(C)CC1=CN(C(=C1)C1=CC=CC=C1)S(=O)(=O)C=1C(=NC=CC1)Cl)=O | C22H24ClN3O4S
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 1 mL | C(C)(=O)OCC.Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[1-(2-chloropyridin-3-ylsulfonyl)-5-phenyl-1H-pyrrol-3-yl]-N-methylmethanamine hydrochloride | yield 29 mg, 49% | Cl.ClC1=NC=CC=C1S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)CNC | InChI=1S/C17H16ClN3O2S.ClH/c1-19-11-13-10-15(14-6-3-2-4-7-14)21(12-13)24(22,23)16-8-5-9-20-17(16)18;/h2-10,12,19H,11H2,1H3;1H
